US05405854
A solution of 13.9 g of di-t-butyl dicarbonate in 140 ml of dioxane is added dropwise while cooling to a solution of 10 g of N-cyclopropyl-β-alanine ethyl ester in 100 ml of dioxane. After stirring, the reaction mixture is evaporated. After drying the residue, there are obtained 16 g of ethyl 3-(t-butoxycarbonyl- cyclopropyl-amino)propionate, Fab-MS: 201 (M-isobutylene).

reactant | di-t-butyl dicarbonate | 13.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-cyclopropyl-β-alanine ethyl ester | 10 g | C(C)OC(CCNC1CC1)=O | C8H15NO2
solvent | dioxane | 140 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-(t-butoxycarbonyl- cyclopropyl-amino)propionate | 16 g | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)C1CC1 | C13H23NO4
